US05624894
Alanine t-butyl ester (0.454 g, 2.50 mmol) was dissolved in 15 ml of CH2Cl2, then Et3N (0.252 g, 2.50 mmol) was added and the mixture was stirred for 10 minutes at room temperature. Then nicotinic acid (0.31 g, 5.0 mmol) in 8 ml of DMF and HOBt (0.43 g, 3.20 mmol) in 5 ml of DMF were added, followed by DCC (0.52 g, 3.0 mmol) in 10 ml of CH2Cl2. The mixture was stoppered and stirred overnight at room temperature. The DCU which formed was removed by filtration and the solvent was removed in vacuo. The residue was dissolved in 25 ml of CHCl3 and washed successively three times with 5% acetic acid/H2O, three times with 7% NaHCO3 /H2O and once with saturated NaCl solution. The organic layer was dried over anhydrous Na2SO4 for one hour, then the solvent was removed in vacuo to give nicotinoyl-alanine t-butyl ester. That product was dissolved in 25 ml of 1:1 TFA/CHCl3 and was stirred at room temperature for 30 minutes. The solvent was removed in vacuo, the residue was triturated three times with Et2O and then recrystallized from Et2O to give nicotinoyl-alanine (27). TLC showed one spot, Rf =0.42 in 1:9 CH3OH/CHCl3. Mass spectrum showed one major peak centered at m/z=195 (M+H+) which matched the calculated molecular weight. The product was obtained in 53% overall yield (0.257 g, 1.325 mmol).

reactant | Alanine t-butyl ester | 2.50 mmol, 0.454 g | C(C)(C)(C)OC([C@@H](N)C)=O | C7H15NO2
reactant | Et3N | 2.50 mmol, 0.252 g | CCN(CC)CC | C6H15N
reactant | nicotinic acid | 5.0 mmol, 0.31 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HOBt | 3.20 mmol, 0.43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 3.0 mmol, 0.52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | nicotinoyl-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CN=CC=C1)=O)C)=O | C13H18N2O3
